US09023864B2
Step 7: Propyl [7-(5-benzyl-1H-1,2,3-triazol-1-yl)-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]acetate
To a stirred solution of propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate (1 eq) and prop-2-yn-1-ylbenzene (1.5 eq) in benzene (0.3M) at room temperature was added chloro(1,5-cyclooctadiene) (pentamethylcyclopentadienyl)-ruthenium(II) (0.1 eq). The reaction mixture was flushed with nitrogen then aged at 80° C. for overnight, cooled to room temperature, filtered through silica gel, washed with EtOAc and concentrated. The residue was purified by column chromatography on silica gel eluting with EtOAc/Hexane (0 to 50%) to give the desired material as a brown oil. The racemic mixture was resolved by HPLC using a 50×400 mm Chiralpak AD column eluting with 15% MeOH, 15% EtOH, 69.75% Hexanes and 0.25% Et3N at 50 mL/min and 254 nm to afford the desired chiral ester with retention time of 9.6 and 11.6 min respectively.

reactant | propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | 1 eq | N(=[N+]=[N-])C1CCC=2N(C3=C(C=CC=C3C2CC(=O)OCCC)F)C1 | C17H19FN4O2
reactant | prop-2-yn-1-ylbenzene | 1.5 eq | C(C#C)C1=CC=CC=C1 | C9H8
solvent | benzene | 0.3M | C1=CC=CC=C1 | C6H6
catalyst | chloro(1,5-cyclooctadiene) (pentamethylcyclopentadienyl)-ruthenium(II) | 0.1 eq | CC1=C(C(=C(C1(C)[Ru+])C)C)C.ClC1=CCCC=CCC1
product | Propyl [7-(5-benzyl-1H-1,2,3-triazol-1-yl)-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]acetate | C(C1=CC=CC=C1)C1=CN=NN1C1CCC=2N(C3=C(C=CC=C3C2CC(=O)OCCC)F)C1 | C26H27FN4O2
